US07960419B2
Add PdCl2(PPh3)2 (0.15 g, 0.21 mmol) and Sn(CH3)4 (0.79 mL, 1.02 g, 5.71 mmol) to (R,R)—N-[4-bromo-3-(3-fluoro-4-methoxyphenyl)-isothiazol-5-yl]-2-methylcyclopropanecarboxamide (0.55 g, 1.43 mmol) in DMF (3 mL), and stir the reaction mixture at 130° C. in a sealed tube overnight. Dilute with EtOAc (100 mL) and brine (100 mL). Collect the organic phase, dry (K2CO3) and evaporate. Take up the resultant oil in 1:1 MTBE:KF (aqueous, 15%) (50 mL) and stir at reflux for 1 h. Pour the cooled solution over diatomaceous earth and filter with MTBE (100 mL). Collect the organic phase, dry (K2CO3) and evaporate. Chromatography over silica gel, eluting with 10-30% THF in hexane, affords (R,R)—N-[3-(3-fluoro-4-methoxyphenyl)-4-methylisothiazol-5-yl]-2-methylcyclopropanecarboxamide. Yield: 49.2%. ES-MS: m/e 321.0 (m+1).

reactant | Sn(CH3)4 | 5.71 mmol, 0.79 mL, 1.02 g | [Sn](C)(C)(C)C
reactant | (R,R)—N-[4-bromo-3-(3-fluoro-4-methoxyphenyl)-isothiazol-5-yl]-2-methylcyclopropanecarboxamide | 1.43 mmol, 0.55 g | BrC=1C(=NSC1NC(=O)[C@H]1[C@@H](C1)C)C1=CC(=C(C=C1)OC)F | C15H14BrFN2O2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | brine | 100 mL | [Cl-].[Na+].O
catalyst | PdCl2(PPh3)2 | 0.21 mmol, 0.15 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (R,R)—N-[3-(3-fluoro-4-methoxyphenyl)-4-methylisothiazol-5-yl]-2-methylcyclopropanecarboxamide | Yield: 49.2% | FC=1C=C(C=CC1OC)C1=NSC(=C1C)NC(=O)[C@H]1[C@@H](C1)C | C16H17FN2O2S
